US08729078B2
A small round bottom flask was charged with 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-iodo-1H-pyrazole-4-carbonitrile (212 mg, 0.39 mmol), 5-chloropyridin-2-amine (65 mg, 0.51 mmol), XANTPHOS (56 mg, 0.098 mmol), and cesium carbonate (381 mg, 1.17 mmol). Dry dioxane (5.7 ml) was added and the mixture was thoroughly degassed with argon. Pd2(dba)3 (46 mg, 0.051 mmol) was added and the material was again degassed with argon. The flask was placed in an oil bath heated to 95° C. for 2.5 hours. The flask was cooled to ambient and ethyl acetate (30 ml) and water (30 ml) were added. The contents were shaken in a separatory funnel and the organic phase was collected. The aqueous phase was back extracted with ethyl acetate (2×30 ml), and the organic phase was combined, dried with magnesium sulfate, filtered and stripped. The crude material was purified by preparative thin layer chromatography (2 plates, eluting with 4% methanol in methylene chloride). The product band was collected, providing the desired 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-(5-chloro-pyridin-2-ylamino)-1H-pyrazole-4-carbonitrile as a light yellow powder (111 mg). LC/MS calc'd for C28H23ClFN7O2 (m/e) 543.98, obs'd 544 (M+H, ES+).

reactant | 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-iodo-1H-pyrazole-4-carbonitrile | 0.39 mmol, 212 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)I)CO | C23H19FIN5O2
reactant | 5-chloropyridin-2-amine | 0.51 mmol, 65 mg | ClC=1C=CC(=NC1)N | C5H5ClN2
reactant | XANTPHOS | 0.098 mmol, 56 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 1.17 mmol, 381 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.051 mmol, 46 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 5.7 ml | O1CCOCC1 | C4H8O2
product | 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-3-(5-chloro-pyridin-2-ylamino)-1H-pyrazole-4-carbonitrile | 111 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1N=C(C(=C1)C#N)NC1=NC=C(C=C1)Cl)CO | C28H23ClFN7O2
